US07678801B2
179c) 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-5-fluoro-4-methyl-N-(1-methylethyl)benzamide
To the compound 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-5-fluoro-4-methylbenzoic acid trifluoroacetate (30 mg, 0.055 mmol) in DMF (0.5 mL) were added HBTU (25 mg, 0.066 mmol), triethylamine (15.5 uL, 0.11 mmol) and isopropylamine (7.03 uL, 0.0825 mmol). The mixture was stirred at rt overnight. Separation by HPLC with TFA, followed by neutralization with SPE amine cartridge afforded the title compound (19.3 mg, 60%). LC-MS m/z 581 (M+H)+.

reactant | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-5-fluoro-4-methylbenzoic acid trifluoroacetate | 0.055 mmol, 30 mg | FC(C(=O)O)(F)F.C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)O)C=C(C2C)F)CC
reactant | HBTU | 0.066 mmol, 25 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.11 mmol, 15.5 uL | C(C)N(CC)CC | C6H15N
reactant | isopropylamine | 0.0825 mmol, 7.03 uL | C(C)(C)N | C3H9N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-5-fluoro-4-methyl-N-(1-methylethyl)benzamide | 19.3 mg, 60% | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)NC(C)C)C=C(C2C)F)CC | C31H35F3N6O2
